US06608203B2
2-(Naphthalene-1-sulfonyl)-1-[4-(2-pyrrolidin-1-yl-ethoxy)phenyl]-1,2,3,4-tetrahydroisoquinolin-6-ol
A mixture of 6-benzyloxy-2-(naphthalene-1-sulfonyl)-1-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-1,2,3,4-tetrahydroisoquinoline (0.012 g, 0.019 mmol), ammonium formate (0.033 g, 0.52 mmol), and 20% Pd(OH)2/C (0.002 g) in MeOH (10 ml) was refluxed under N2 for 1.5 hr, then filtered to remove the catalyst. The filtrate was evaporated in vacuo to a residue that was suspended in a mixture of H2O (0.4 ml) and sat. NaHCO3 (0.4 ml). The aqueous mixture was extracted with CH2Cl2 (3×0.8 ml), and all of the combined organic solutions were evaporated to give the crude product. Purification by reverse-phase HPLC, eluting with gradient Primesphere C-18HC (3.0 mm×2.0 mm column with 5 m particle size) column, eluting with a linear gradient starting at time 0 min. of H2O:CH3CN:TFA (99.9:0:0.1), increasing to H2O CH3CN:TFA (0:99.9:0.1) at 4 min., detected with a UV detector (300 nM +/−90 nM and 254 nM +/−25 nM), gave an eluent that was evaporated to dryness to give the named product. MS m/e 493 (M++1).

reactant | 6-benzyloxy-2-(naphthalene-1-sulfonyl)-1-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-1,2,3,4-tetrahydroisoquinoline | 0.019 mmol, 0.012 g | C(C1=CC=CC=C1)OC=1C=C2CCN(C(C2=CC1)C1=CC=C(C=C1)OCCN1CCCC1)S(=O)(=O)C1=CC=CC2=CC=CC=C12 | C38H38N2O4S
reactant | ammonium formate | 0.52 mmol, 0.033 g | C(=O)[O-].[NH4+]
solvent | MeOH | 10 ml | CO | CH4O
catalyst | Pd(OH)2/C | 0.002 g | [OH-].[OH-].[Pd+2]
product | 2-(Naphthalene-1-sulfonyl)-1-[4-(2-pyrrolidin-1-yl-ethoxy)phenyl]-1,2,3,4-tetrahydroisoquinolin-6-ol | C1(=CC=CC2=CC=CC=C12)S(=O)(=O)N1C(C2=CC=C(C=C2CC1)O)C1=CC=C(C=C1)OCCN1CCCC1 | C31H32N2O4S
